US07354933B2
5.36 g of sodium borohydride are added portionwise to a solution of 5.08 g of ethyl 2-ethylpyridine-4-carboxylate in 53 ml of ethanol, under an inert atmosphere of argon at a temperature in the region of 0° C. The reaction mixture is refluxed with stirring for 3 hours and then concentrated to dryness under reduced pressure. The residue thus obtained is taken up in 500 ml of dichloromethane and then washed with 500 ml of water. The organic phase is dried over magnesium sulfate, filtered and then concentrated to dryness under reduced pressure. 3.16 g of 2-ethyl-4-(hydroxymethyl)pyridine are thus obtained.

reactant | sodium borohydride | 5.36 g | [BH4-].[Na+]
reactant | ethyl 2-ethylpyridine-4-carboxylate | 5.08 g | C(C)C1=NC=CC(=C1)C(=O)OCC | C10H13NO2
solvent | ethanol | 53 ml | C(C)O | C2H6O
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 2-ethyl-4-(hydroxymethyl)pyridine | 3.16 g | C(C)C1=NC=CC(=C1)CO | C8H11NO
